US08466193B2
To a solution of methyl 1-(2-(2-formylphenoxy)ethyl)-1H-indole-6-carboxylate (0.27 g, 0.84 mmol) and morpholine (0.22 mL, 2.5 mmol) in 1,2-dichloroethane (20 mL) was added NaBH(OAc)3 (0.35 g, 1.7 mmol). After stirring the solution for 4 hr at room temperature, the solution was concentrated and then diluted with ethyl acetate (100 mL) and washed with H2O (100 mL). The organic layer was dried (MgSO4), filtered and then concentrated to provide 0.33 g (˜100%) of methyl 1-(2-(2-(morpholinomethyl)phenoxy)ethyl)-1H-indole-6-carboxylate as an orange oil.

reactant | methyl 1-(2-(2-formylphenoxy)ethyl)-1H-indole-6-carboxylate | 0.84 mmol, 0.27 g | C(=O)C1=C(OCCN2C=CC3=CC=C(C=C23)C(=O)OC)C=CC=C1 | C19H17NO4
reactant | morpholine | 2.5 mmol, 0.22 mL | N1CCOCC1 | C4H9NO
reactant | NaBH(OAc)3 | 1.7 mmol, 0.35 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | methyl 1-(2-(2-(morpholinomethyl)phenoxy)ethyl)-1H-indole-6-carboxylate | 0.33 g, ~100% | O1CCN(CC1)CC1=C(OCCN2C=CC3=CC=C(C=C23)C(=O)OC)C=CC=C1 | C23H26N2O4
